US04152441
At a temperature of 60° C., 500 mg. of picrinic acid and 15.6 g. (0.39 mol) of sodium hydroxide were added to a solution of 31 g. (0.32 mol) of 4,5-dimethylimidazole (H, Bredereck and G. Theilig, Chem. Ber. 86, 88 (1953)) in 150 ml. of acetonitrile. Then 29 g. (0.36 mol) of chloromethoxymethane were added drop-wise, which made the temperature rise to 80° C. The reaction mixture was refluxed for 6 hours and filtered. The filtrate was concentrated by distilling off the solvent and the residue was distilled. 1-(Methoxymethyl)-4,5-dimethylimidazole was obtained. Boiling point 80°-100° C./1.0 mm. Hg. Melting point of the hydrogen oxalate 102°-103° C.

reactant | sodium hydroxide | 0.39 mol | [OH-].[Na+]
reactant | 4,5-dimethylimidazole | 0.32 mol | CC=1N=CNC1C | C5H8N2
reactant | chloromethoxymethane | 0.36 mol | ClCOC | C2H5ClO
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(Methoxymethyl)-4,5-dimethylimidazole | COCN1C=NC(=C1C)C | C7H12N2O
